US08580794B2
3-(2-(benzyloxy)ethoxy)tetrahydrofuran
Tetrahydrofuran-3-ol (0.881 g) in tetrahydrofuran (15 mL) was treated with 60% sodium hydride (0.8 g). After 10 minutes, ((2-bromoethoxy)methyl)benzene (3.23 g) was added. The solution was stirred for 16 hours. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was separated, and was extracted with additional ethyl acetate twice. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 1:1 ethyl acetate:hexane to provide the title compound.

reactant | Tetrahydrofuran-3-ol | 0.881 g | O1CC(CC1)O | C4H8O2
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | ((2-bromoethoxy)methyl)benzene | 3.23 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(2-(benzyloxy)ethoxy)tetrahydrofuran | C(C1=CC=CC=C1)OCCOC1COCC1 | C13H18O3
